US09056859B2
To a solution of tert-butyl 4-{[2-cyano-4-(1H-tetrazol-1-yl)phenyl]acetyl}piperazine-1-carboxylate (160 mg, 0.4 mmol) in 10 mL of dioxane was added 10 mL of 5 M HCl/EtOH, then the mixture was stirred at room temperature for 3 h. The solvent was removed under reduce pressure. The crude compound was suspension in 20 mL of MeCN and added Na2CO3 (102 mg, 0.96 mmol), then the mixture was stirred at room temperature overnight. After filtration, the filtrate was concentrated in vacua to give crude 2-[2-oxo-2-(piperazin-1-yl)ethyl]-5-(1H-tetrazol-1-yl)benzonitrile, which was used for next step without further purification.

reactant | tert-butyl 4-{[2-cyano-4-(1H-tetrazol-1-yl)phenyl]acetyl}piperazine-1-carboxylate | 0.4 mmol, 160 mg | C(#N)C1=C(C=CC(=C1)N1N=NN=C1)CC(=O)N1CCN(CC1)C(=O)OC(C)(C)C | C19H23N7O3
reactant | HCl EtOH | 5 M, 10 mL | Cl.CCO
reactant | Na2CO3 | 0.96 mmol, 102 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 2-[2-oxo-2-(piperazin-1-yl)ethyl]-5-(1H-tetrazol-1-yl)benzonitrile | O=C(CC1=C(C#N)C=C(C=C1)N1N=NN=C1)N1CCNCC1 | C14H15N7O
